US04600709
In a manner analogous to that described in Example 4, 30.0 g (111 mmol) of 4-methyl-5-(2-thienylsulphonyl)-1,2-benzenediol, 17.4 g (111 mmol) of dichloroacetic acid ethyl ester and 76.7 g (555 mmol) of potassium carbonate in 300 ml of 1,2-dimethoxyethane are boiled under reflux. After 18 hours, the reaction mixture is poured into water, stirred for one hour at room temperature and then adjusted to pH 1-2 by means of hydrochloric acid. Some of the 1,2-dimethoxyethane is distilled off in vacuo and the mixture remaining is extracted with ethyl acetate. The combined organic phases are washed with water and saturated sodium chloride solution, dried over sodium sulphate and concentrated by evaporation in a rotary evaporator. The resulting dark-red oil is chromatographed over silica gel. As eluant, a mixture of chloroform/methanol/concentrated ammonia in a ratio of 40:10:1 is used until elution of the starting diol, then an analogous mixture in a ratio of 12:5:1 is used. The uniform fractions are combined and concentrated almost completely by evaporation. Ice/water is added to the residue and the pH is adjusted to 1-2 with concentrated hydrochloric acid. The acidic solution is extracted with ethyl acetate. The combined organic phases are washed, dried and concentrated by evaporation. The residue is boiled in diisopropyl ether and the black sludge formed is removed by decanting. The clear solution is concentrated to a large extent and the substance which has crystallised out is filtered off with suction. The crystals are recrystallised from 1,2-dichloroethane, yielding 5-methyl-6-(2-thienylsulphonyl)-1,3-benzodioxole-2-carboxylic acid in the form of white crystals having a melting point of 162.5°-164.5°.

reactant | 4-methyl-5-(2-thienylsulphonyl)-1,2-benzenediol | 111 mmol, 30.0 g | CC=1C=C(C(=CC1S(=O)(=O)C=1SC=CC1)O)O | C11H10O4S2
reactant | dichloroacetic acid ethyl ester | 111 mmol, 17.4 g | C(C)OC(C(Cl)Cl)=O | C4H6Cl2O2
reactant | potassium carbonate | 555 mmol, 76.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 300 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | 5-methyl-6-(2-thienylsulphonyl)-1,3-benzodioxole-2-carboxylic acid | CC1=CC2=C(OC(O2)C(=O)O)C=C1S(=O)(=O)C=1SC=CC1 | C13H10O6S2
